US08048909B2
tert-Butyl {[(2-cyanophenyl)sulfonyl-5-(3-pyridyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
Using tert-butyl {[5-bromo-1-(2-cyanophenyl)sulfonyl-1H-pyrrol-3-yl]methyl}methylcarbamate (296 mg), 3-pyridineboronic acid (162 mg), sodium carbonate (208 mg) and tetrakis(triphenylphosphine)palladium (38.2 mg), a procedure as in Reference Example 267 was performed to give the title compound as a white solid (yield 187 mg, 63%).

reactant | tert-butyl {[5-bromo-1-(2-cyanophenyl)sulfonyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 296 mg | BrC1=CC(=CN1S(=O)(=O)C1=C(C=CC=C1)C#N)CN(C(OC(C)(C)C)=O)C | C18H20BrN3O4S
reactant | 3-pyridineboronic acid | 162 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 208 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 38.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl {[(2-cyanophenyl)sulfonyl-5-(3-pyridyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 187 mg, 63% | C(#N)C1=C(C=CC=C1)S(=O)(=O)N1C=C(C=C1C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C23H24N4O4S
